US04557753
In 30 ml of an aqueous solution containing 4.0 g (0.1 mol) of sodium hydroxide was dissolved 9.8 g (0.1 mol) of 1-methyl-5-hydroxypyrazole at room temperature. To the resulting aqueous solution maintained at 10° C. was added dropwise a solution prepared from 23.0 g (0.11 mol) of 2,4-dichlorobenzoyl chloride and 100 ml of chloroform with stirring over 1 hour, followed by additional stirring for 2 hours at a temperature below about 20° C. Then the chloroform layer was separated and washed successively with water, 5% aqueous sodium bicarbonate and saturated brine and, after drying, solvent was distilled off under reduced pressure to give 23.5 g of 1-methyl-5-(2,4-dichlorobenzoyloxy)-pyrazole (yield: 86%).

reactant | sodium hydroxide | 0.1 mol, 4.0 g | [OH-].[Na+]
reactant | 1-methyl-5-hydroxypyrazole | 0.1 mol, 9.8 g | CN1N=CC=C1O | C4H6N2O
reactant | 2,4-dichlorobenzoyl chloride | 0.11 mol, 23.0 g | ClC1=C(C(=O)Cl)C=CC(=C1)Cl | C7H3Cl3O
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-methyl-5-(2,4-dichlorobenzoyloxy)-pyrazole | 23.5 g, yield: 86% | CN1N=CC=C1OC(C1=C(C=C(C=C1)Cl)Cl)=O | C11H8Cl2N2O2
